US07563903B2
1.7 (2S)-2-amino-N-(5-{2-[(phenoxy)methyl]phenyl}-1,3-thiazol-2-yl)pentanamide hydrochloride
25 ml of a solution of gaseous hydrochloric acid (4.5 M) in ethyl acetate are added dropwise at 0° C. to 5 g of tert-butyl(1S)-2-[(5-{2-[(phenoxy)-methyl]phenyl}-1,3-thiazol-2-yl)amino]-1-propyl-2-oxoethylcarbamate, obtained in step 1.6, in solution in 60 ml of ethyl acetate. The mixture is stirred for 18 hours at 20° C. The precipitate formed is filtered, rinsed twice with diethyl ether and dried to give 3 g of a white solid.

reactant | hydrochloric acid | 4.5 M | Cl | ClH
reactant | tert-butyl(1S)-2-[(5-{2-[(phenoxy)-methyl]phenyl}-1,3-thiazol-2-yl)amino]-1-propyl-2-oxoethylcarbamate | O(C1=CC=CC=C1)CC1=C(C=CC=C1)C1=CN=C(S1)NC([C@H](CCC)NC(OC(C)(C)C)=O)=O | C26H31N3O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-2-amino-N-(5-{2-[(phenoxy)methyl]phenyl}-1,3-thiazol-2-yl)pentanamide hydrochloride | 3 g | Cl.N[C@H](C(=O)NC=1SC(=CN1)C1=C(C=CC=C1)COC1=CC=CC=C1)CCC | InChI=1S/C21H23N3O2S.ClH/c1-2-8-18(22)20(25)24-21-23-13-19(27-21)17-12-7-6-9-15(17)14-26-16-10-4-3-5-11-16;/h3-7,9-13,18H,2,8,14,22H2,1H3,(H,23,24,25);1H/t18-;/m0./s1
